US07091232B2
A mixture of 5-(2-benzyloxy-ethyl)-2-oxo-cyclohexanecarboxylic acid methyl ester in anhydrous MeOH (10 mL) was reacted with NaOMe solution (16.6 mL, 8.28 mmol) at rt for 15 min. Iodoethane (2.76 mL, 34.5 mmol) was added via syringe and the mixture was stored at rt for 48 h. Another portion of NaOMe (8.3 mmol) and EtI (35 mmol) was added and the mixture was allowed to react until the starting material was not present (by TLC). The solution was quenched with an aqueous work-up and the resultant residue was purified by chromatography to yield 5-(2-benzyloxy-ethyl)-1-ethyl-2-oxo-cyclohexanecarboxylic acid methyl ester (Intermediate K2, 1.87 g (86%). The keto-ester (Intermediate K2) was heated at 90° C. in 10% KOH (100 mL) for 10 h, then 6 h at rt. The mixture was cooled to 0° C. and acidified with HCl. The solution was warmed to 40° C. for 15 min. and then stored at rt for 2 h. The mixture was neutralized to pH 7 with NaOH and the organic material was recovered by extraction with chloroform. The resulting 4-(2-benzyloxy-ethyl)-2-ethyl-cyclohexanone (Intermediate K3) was isolated by standard work-up and used without further purification (88%). Intermediate K3 (1.36 g, 5.24 mmol) was dissolved in THF (75 mL) and treated with MeMgBr (2.62 mL, 7.9 mmol) at 0° C. and reacted at rt for 1 h. The organic material was isolated from an aqueous, acidic work-up and purified by chromatography to give 4-(2-benzyloxy-ethyl)-2-ethyl-1-methyl-cyclohexanol 1.36 g (94%). 4-(2-benzyloxy-ethyl)-2-ethyl-1-methyl-cyclohexanol (1.39 g, 5.04 mmol) and TsOH—H2O (0.48 g, 2.52 mmol) were heated to reflux in benzene (˜100 mL) for 18 h in the presence of MgSO4 (˜250 mg). After an aqueous work-up and chromatographic purification, the product [2-(3-ethyl-4-methyl-cyclohex-3-enyl)-ethoxymethyl]-benzene (Intermediate K4) was isolated as a pale yellow oil 0.912 g (71%).

reactant | 4-(2-benzyloxy-ethyl)-2-ethyl-1-methyl-cyclohexanol | 5.04 mmol, 1.39 g | C(C1=CC=CC=C1)OCCC1CC(C(CC1)(O)C)CC | C18H28O2
reactant | TsOH—H2O | 2.52 mmol, 0.48 g | S(=O)(=O)(C1=CC=C(C)C=C1)O.O
reactant | MgSO4 | ˜250 mg | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | benzene | ˜100 mL | C1=CC=CC=C1 | C6H6
product | [2-(3-ethyl-4-methyl-cyclohex-3-enyl)-ethoxymethyl]-benzene | C(C)C=1CC(CCC1C)CCOCC1=CC=CC=C1 | C18H26O
